US04962202
(1) 1-Chloro-2-hydroxy-3-p-methoxybenzylthiopropane
2.78 ml of epichlorohydrin and 2.78 ml of p-methoxybenzylmercaptan were heated with stirring at 120 to 130° C. for three hours. After cooling, the product was purified by column chromatography using 100 g of silica gel and benzene as an eluent to obtain 1.44 g of the objective compound.

reactant | epichlorohydrin | 2.78 ml | C(Cl)C1CO1 | C3H5ClO
reactant | p-methoxybenzylmercaptan | 2.78 ml | COC1=CC=C(CS)C=C1 | C8H10OS
product | 1-Chloro-2-hydroxy-3-p-methoxybenzylthiopropane | 1.44 g | ClCC(CSCC1=CC=C(C=C1)OC)O | C11H15ClO2S
